US08013156B2
Piperidine-4-carboxylic acid ethyl ester (14.0 mL, 91 mmol) was dissolved in DMF (15.0 mL) and heated to 100 C. 3,4-Dichloro-1,2,5-thiadiazole (4.0 mL, 42 mmol) was added and the mixture heated at 100 C. for 4 h. The reaction mixture was poured into 1N HCl and extracted with EtOAc (4×). The combined EtOAc extractions were washed with H2O (1×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo to give 12.3 g (105%) of 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid ethyl ester which was used without further purification. 1H NMR (CDCl3) 4.30-4.13 (m, 2H), 4.06-3.93 (m, 2H), 3.12-2.99 (m, 2H), 2.59 (m, 1H), 2.03 (m, 4H), 1.42-1.26 (m, (3H) ppm. LC-MS (MH+)=276.

reactant | Piperidine-4-carboxylic acid ethyl ester | 91 mmol, 14.0 mL | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | 3,4-Dichloro-1,2,5-thiadiazole | 42 mmol, 4.0 mL | ClC1=NSN=C1Cl | C2Cl2N2S
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 15.0 mL | CN(C)C=O | C3H7NO
product | 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid ethyl ester | 12.3 g, 105% | C(C)OC(=O)C1CCN(CC1)C1=NSN=C1Cl | C10H14ClN3O2S
